Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:7]=[C:6]=[C:3]([N:2]([N+:5]#[C-:4])[H:11])[H:12])([H:8])([H:9])[H:10],141.982487331089
[C:2]1([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]1([C:5](=[O:6])[H:14])[H:13].[O:1]([H:7])[H:12]>>[O:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],50.86158905089239
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1](=[C:2](/[O:3][C@:4]1([H:11])[C:5]([H:12])([H:13])[C:6][N:7]1[H:10])[H:9])\[H:8],106.73762772657601
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][c:6]1[c:4](=[N:5][H:13])[n:7]1)([H:11])[H:12])([H:8])([H:9])[H:10],71.3336348286147
[N:1]1([H:8])[C:2]2([O:3][C:4]([H:9])([H:10])[C:5]2=[C:6]([H:11])[H:12])[N:7]1[H:13]>>[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8],64.95056717039509
[C:1]([C:2]1=[C:7]([H:13])[O:6][C@:5]1([C:4](=[O:3])[H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[O:3][C@@:4]3([H:11])[C@:5]1([H:12])[O:6][C@@:7]23[H:13])([H:8])([H:9])[H:10],88.24565791206909
[C:1]1([H:7])([H:8])[C:2]([C:3]([H:11])([H:12])[H:13])([H:10])[C:4]1([H:14])[H:15].[C:5](#[N:6])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[N:6])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],53.984145354681026
[C+:1]([N:2]([C:3](=[C:6]=[N-:7])[H:12])[H:11])([H:8])[H:9].[C:4]([O:5][H:15])([H:10])([H:13])[H:14]>>[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],27.672036317791104
[C:1]([C:2]([c:3]1[c:4]([H:13])[n:5]([H:14])[n:6][n:7]1)([H:11])[H:12])([H:8])([H:9])[H:10]>>[C@:1]12([H:9])[C:2]([H:11])([H:12])[C@@:3]13[C@:4]2([H:13])[N:5]([H:14])[N:6]=[N:7]3.[H:8][H:10],101.46885967769899
[C:2](=[C:3](/[O:4][H:12])[H:11])(\[C:5]#[N:6])[H:9].[N:1]([H:7])([H:8])[H:10]>>[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8],78.69520813900161
[C:2](#[O+:3])[C:5]#[C-:4].[N:1]([C:6]#[N:7])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9],52.666418827678285
[C-:2](=[O+:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])[H:12].[C:1]([H:8])([H:9])([H:10])[H:11]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],7.0779837353855015
[C-:2]([C:3]([C:4]#[N:5])([H:10])[H:11])=[C:6]=[C+:7][H:12].[O:1]([H:8])[H:9]>>[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8],0.165575253579604
[C:1]([C:2]([C:3]([C:4](=[C:5]=[C:6]=[C:7]([H:18])[H:19])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][H:17]>>[C:1]([C:2]([C:3]([C:4]([C:5]#[C:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],39.58650705261529
[n:1]1([H:6])[c:2]([H:7])[c:3]([H:8])[n:4][n:5]1>>[N:1](=[C:2]=[C:3]([H:7])[H:8])[H:6].[N:4]#[N:5],52.500679849231304
[C:1]([C@:2]1([H:12])[C@:3]([O:4][H:14])([H:13])[C:5]([H:15])([H:16])[C:6]1([H:17])[H:18])([H:8])([H:9])[H:10].[O:7]([H:11])[H:19]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],68.26758315401781
[C:1]([H:7])([H:8])([H:9])[H:11].[N:2](=[C:3]=[N:4][H:10])[C:5](=[O:6])[H:12]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9],88.61044662021608
[C:1]1([H:8])([H:9])[C@@:2]([C:5]#[C:6][H:12])([H:10])[C:3][C:4]1([H:7])[H:11]>>[C:1]([C:2]([C:3]#[C:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9],37.090353283216004
[N+:1]([C-:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9],26.745667881749604
[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[H:10][H:12].[O:1](/[C:2](=[C:3](/[C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])[H:11])[H:9])[H:8],92.7828148117586
[C:5]=[N:6][H:8].[N:1]([C:2]([C:3](=[O:4])[H:11])([H:9])[H:10])([H:7])[H:12]>>[N:1]([C:2]([C@@:3]([O:4][H:12])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8],16.948422531393504
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([N+:6]#[C-:5])([H:7])([H:8])[H:9].[C:2](=[C:3]([O:4][H:13])[H:12])([H:10])[H:11],116.45051922996099
[C:1](/[C:2](=[N:3]\[H:10])[N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[N:3])([H:7])([H:8])[H:9].[N:4](=[C:5](\[O:6][H:10])[H:12])\[H:11],41.3836818119598
[C:1]([C:2]([C:3]#[C:4][C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:9])[C:2]([H:10])([H:11])[C:3]1=[C:4]=[C:5]([C:6]([H:14])([H:15])[H:16])[H:12].[H:8][H:13],82.0048023159873
[C:1]([C:3]([O:2][H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4](=[O:5])([C:6]([O:7][H:17])([H:15])[H:16])[H:13]>>[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],92.68639741313439
